US06333336B1
d) 3,5-Dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid propylamide
To a solution of 3,5-dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid (50 mg, 0.196 mmol) in anhydrous N,N-dimethylacetamide (2 ml) was added propylamine (17.8 ml, 0.216 mmol), bis(2-oxo-3-oxazolidinyl)phosphinic chloride (55 mg, 0.216 mmol), then, dropwise, anhydrous triethylamine (60 ml, 0.430 mmol). The mixture was stirred under nitrogen at room temperature for 2 h. Water (5 ml) was then added and the mixture was stirred before collecting the solid by filtration. The solid was washed with water, then hexane, and dried under vacuum at 70° C. The solid was then purified by recrystallisation (CH2Cl2-MeOH-EtOAc) to afford 39.1 mg (67%) of the title compound as an orange solid; 1H NMR (360 MHz, DMSO-d6) δ0.99 (3H, t, J 7.3 Hz), 1.62 (2H, sextet, J 7.2 Hz), 3.41 (2H, q, J 6.8 Hz), 7.21 (1H, t, J 7.4 Hz), 7.47 (2H, t, J 7.5 Hz), 8.16 (1H, s), 8.18 (2H, d, J 7.6 Hz), 8.68 (1H, s), 8.70 (1H, t), 12.69 (1H, br s); MS (ES+) m/z 297 [MH]+.

reactant | 3,5-dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid | 0.196 mmol, 50 mg | O=C1N(N=C2C1=CNC=C2C(=O)O)C2=CC=CC=C2 | C13H9N3O3
reactant | propylamine | 0.216 mmol, 17.8 ml | C(CC)N | C3H9N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.216 mmol, 55 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 0.430 mmol, 60 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | Water | 5 ml | O | H2O
product | 3,5-Dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid propylamide | 39.1 mg, 67% | C(CC)NC(=O)C=1C=2C(=CNC1)C(N(N2)C2=CC=CC=C2)=O | C16H16N4O2
